// Generated for: spectre
// Generated on: Apr 16 09:44:10 2025
// Design library name: lpv_proj
// Design cell name: WITH_SYM2
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/workspace/cadence/IC615/45/gpdk045/../models/spectre/gpdk045.scs" section=NN

// Library name: lpv_proj
// Cell name: try1
// View name: schematic
subckt try1 BL BLB Q QB VCC WL gnd
    NM6 (BLB WL QB gnd) gpdk045_nmos1v w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
    NM1 (QB Q gnd gnd) gpdk045_nmos1v w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
    NM0 (Q QB gnd gnd) gpdk045_nmos1v w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
    PM1 (QB Q VCC VCC) gpdk045_pmos1v w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
    PM0 (Q QB VCC VCC) gpdk045_pmos1v w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
    NM3 (Q WL BL gnd) gpdk045_nmos1v_hvt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
ends try1
// End of subcircuit definition.

// Library name: lpv_proj
// Cell name: WITH_SYM2
// View name: schematic
V5 (net06 0) vsource dc=500m type=dc
V4 (net09 0) vsource dc=0 type=dc
V3 (BL 0) vsource type=pulse val0=0 val1=500m period=50n rise=1n fall=1n \
        width=25n
V2 (BLB 0) vsource type=pulse val0=500m val1=0 period=50n rise=1n fall=1n \
        width=25n
V1 (WL 0) vsource type=pulse val0=0 val1=500m
I9 (BL BLB Q QB net6 WL net013) try1
NM0 (net013 net09 0 0) gpdk045_nmos1v_hvt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n m=(1)
PM0 (net6 net06 net06 net06) gpdk045_pmos1v_hvt w=(120n) l=45n nf=1 \
        as=16.8f ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n \
        sb=140n sd=160n m=(1)
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
